US05116402
Preparation of trichloro-acetaldehyde diheptyl-acetal
A mixture of 5 g of chloral hydrate, 12 g of heptanol, 0.1 g of 4-methyl-benzene-sulphonic acid and 50 ml of benzene is kept at reflux temperature and the formed water is separated by means of a Dean-Stark apparatus. Afater a reaction time of 9 hours the benzene is washed with a sodium hydrogen carbonate solution and water, dried on magnesium sulfate, then vacuum distilled.

reactant | chloral hydrate | 5 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | heptanol | 12 g | C(CCCCCC)O | C7H16O
reactant | 4-methyl-benzene-sulphonic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | trichloro-acetaldehyde diheptyl-acetal | C(CCCCCC)OC(C(Cl)(Cl)Cl)OCCCCCCC | C16H31Cl3O2
